* Created by KLayout

* cell CLKBUF_X4
* pin A
* pin Y
* pin gnd
.SUBCKT CLKBUF_X4 1 2 5
* net 1 A
* net 2 Y
* net 5 gnd
* device instance $1 r0 *1 6.1,44.8 PMOS_mst
M$1 3 1 4 4 PMOS_mst L=1U W=61.2U AS=105.06P AD=91.8P PS=92U PD=79.2U
* device instance $7 r0 *1 30.1,44.8 PMOS_mst
M$7 2 3 4 4 PMOS_mst L=1U W=204U AS=306P AD=319.26P PS=264U PD=276.8U
* device instance $27 r0 *1 6.1,6.8 NMOS_mst
M$27 3 1 5 5 NMOS_mst L=1U W=20.4U AS=35.02P AD=30.6P PS=44.4U PD=38.4U
* device instance $33 r0 *1 30.1,6.8 NMOS_mst
M$33 2 3 5 5 NMOS_mst L=1U W=68U AS=102P AD=106.42P PS=128U PD=134U
.ENDS CLKBUF_X4
